US04882350
5-n-octyloxy-pyrrolidin-2-one.
7.5 g of 5-hydroxy-pyrrolidin-2-one, 10 cm3 of n-octanol and 4 g of Amberlite IR 120H are heated to 60° C. for 4 hours. After filtering, the n-octanol is eliminated by distilling under reduced pressure. 5.5 g of the expected product is obtained, m.p. 36°-38° C., crystallized from hexane.

reactant | 5-hydroxy-pyrrolidin-2-one | 7.5 g | OC1CCC(N1)=O | C4H7NO2
reactant | n-octanol | 10 cm3 | C(CCCCCCC)O | C8H18O
product | 5-n-octyloxy-pyrrolidin-2-one | 5.5 g | C(CCCCCCC)OC1CCC(N1)=O | C12H23NO2
